US07473783B2
To a solution of [5-(2-bromo-phenyl)-2H-pyrazol-3-yl]-thiourea (1.6 g, 5.38 mmol) in glacial AcOH (200 mL) was added a 1.5 M solution of bromine in AcOH (3.59 mL, 5.38 mmol) dropwise under vigorous stirring. The resulting heterogeneous mixture was stirred at room temperature for 2 hours then at 80° C. for 1 hour. The reaction was cooled to room temperature and concentrated to dryness. Water was added followed by 1 N aqueous NaOH to neutralize to pH 7. The resulting precipitate was filtered, washed with water and dried in vacuo. The solid was then refluxed in MeOH for 2 hours, filtered and washed with MeOH to give 588 mg of pure 3-(2-bromo-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine as an off-white solid. The filtrate was further purified on silica gel with 0-10% MeOH in CH2Cl2 as eluent to provide another 460 mg of 3-(2-bromo-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine for a total of 1.408 g (88% yield). 1H-NMR (d6-DMSO) δ: 13.1 and 12.6 (2 broad s, 1H, NH+tautomer), 7.73 (d, 1H), 7.61 (broad m, 1H), 7.48 (m, 3H), 7.34 (t, 1H); HPLC/MS m/z: 294.9, 296.9 [MH]+.

reactant | [5-(2-bromo-phenyl)-2H-pyrazol-3-yl]-thiourea | 5.38 mmol, 1.6 g | BrC1=C(C=CC=C1)C=1C=C(NN1)NC(=S)N | C10H9BrN4S
reactant | bromine | BrBr | Br2
solvent | AcOH | 200 mL | CC(=O)O | C2H4O2
solvent | AcOH | 5.38 mmol, 3.59 mL | CC(=O)O | C2H4O2
product | 3-(2-bromo-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine | 588 mg | BrC1=C(C=CC=C1)C1=NNC=2N=C(SC21)N | C10H7BrN4S
